.SUBCKT LT1491     3 2 7 4 6
X_LT1491 3 2 7 4 6 LT1490
** nested subcircuit: LT1490
.SUBCKT LT1490     1 2 3 4 5 
IBP 303 0 DC -3.9675E-09 
RBP 303 0 1E6 
*TC=-1.6154E-02 (ADD THIS TC TO RBP)
* 
IBN 304 0 DC -3.7860E-09 
RBN 304 0 1E6 
*TC=-1.4615E-02 (ADD THIS TC TO RBN)
* 
GCV1 0 306 POLY(3) 3 0 1 0 2 0 -0.85E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV1 306 0 1.0E5 
DCV1 307 306 DX 
DCV2 308 307 DX 
VCV1 308 0 DC -0.35 
RCV2 307 0 1.0E5 
* 
GCV2 0 309 POLY(3) 3 0 1 0 2 0 0.0E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV3 309 0 1.0E5 
DCV3 310 309 DX 
DCV4 311 310 DX 
VCV2 311 0 DC -0.35 
RCV4 310 0 1.0E5 
* 
GBP 111 99 POLY(3) 303 0 307 0 310 0 0.0 1.0E-6 20.0E-9 3.6E-6 
GBN 112 99 POLY(3) 304 0 307 0 310 0 0.0 1.0E-6 22.0E-9 3.20E-6 
* 
ROFF1 301 0 1.00022E+00 
*TC=-2.0000E-06 (ADD THIS TC TO ROFF1)
ROFF2 302 0 1.0000E+00 
IOFF1 0 301 DC 1 
IOFF2 0 302 DC 1 
EOFF  114 112 301 302 1 
ROFF3 114 112 1.0000E+09 
* 
GCM1 0 20 POLY(2) 111 0 112 0 0 5.0000E-04 5.0000E-04 
RCM4 21 0 1.000000E+03 
RCM5 20 0 1.0000E+06 
LCM 20 21 7.2343E-02
ECM 113 111 20 0 1.25892E-05  
RCM3 113 111 1E12 
*
GRP1 1 111 1 111 1.0000E-03 
GRP2 2 112 2 112 1.0000E-03 
DIP1 4 111 DX 
DIP2 4 112 DX 
* 
CIN 111 112 3.95E-12 
RDIFF 111 112 1.7E+07 
* COMMON MODE RESISTANCE COMMENTED OUT
* FOR CORRECT BIAS MODELING AT HIGH INPUT VOLTAGES
* RCM1 111 99 11E+06 
* RCM2 112 99 11E+06 
GIN 99 10 113 114 0.022273 
RCC 10 99 4.4896E+03 
C1 10 99 1.41798E-10
DSRP 10 11 DX 
VSRP 11 99 DC 5.35
DSRN 12 10 DX 
VSRN 12 99 DC -3.85
GA 60 99 10 99 1.0E-5 
* 
GR 99 60 605 606 2.41668
IR1 0 605 DC 1 
IR2 0 606 DC 1 
DR1 605 0 DR 
DR2 606 0 DR 
*
RP1 601 99 2.0000E+04
CP1 60 601 1.3263E-10
RP11 60 99 1.0000E+04
GP1 99 6 60 99 1.0000E-04
*
R2 6 99 1.0000E+03 
C2 6 7 6.3819E-10 
GB 7 99 6 99 2731.5 
R01 7 99 6.8222E+02 
R02 7 50 1.6427E+03 
R03 50 51 1.0750E+02
*
* R04 51 5 1.2501E+01
R04 51 5 1.7501E+01
*
R05 5 99 1.0000E+12 
DOP 50 51 DO 
DON 51 50 DO
DSUB 4 5 DX
*
EVLP 53 0  POLY(2) 3 99 50 99 1.024 -1.0  1.0 
DLVP 53 90 DX
EVLN 54 0  POLY(2) 4 99 50 99 -1.024 -1.0  1.0 
DLVN 90 54 DX
*
ELIM1 91 0 7 50 2.5406E-02
ELIM2 92 0 7 50 2.5406E-02
DLP 91 90 DX 
DLN 90 92 DX 
VLIM 90 0 DC 0 
FB 7 99 VLIM 5.1074E-01 
* 
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
IP 3 4 DC 38.0E-6 
RP 3 4 2.5000E+06 
GV 31 0 7 50 6.0877E-04 
DP1 3 31 DX 
DP2 32 4 DX 
EGV 31 32 POLY(1) 3 4 -1.0 1.0
*
.MODEL DX  D IS=8.0000E-16 VJ=1.0 RS=0 XTI=0 
.MODEL DR D IS=8.0000E-16 KF=1.9244E-19 RS=0 XTI=0 
.MODEL DO D IS=2.2260E-06 RS=0 XTI=0
*
.ENDS LT1490
** end nested subcircuit: LT1490
.ENDS LT1491
