.SUBCKT LT1497     3 2 7 4 6
*
Q1A  4   33   10  QP
Q2A  4   33   110 QP 
Q3A  11  10   22  QN 0.45X
Q4A  11  11   14  QP
RBC  11  11A      300
Q5A  9   11A  16  QP
Q6A  12  11A  17  QP 2X
Q7A  4   9    12  QP 2X
Q8A  15  18   13  QN 21X
RBA  12  18       150
RSCA 13  6        2.4
IBA  7   10       370U
ROA  7   10       80K
DIA  10  7        DCC 3X
*
Q1B  7   33   110 QN
Q2B  7   33   10  QN
Q3B  111 110  22  QP 0.55X
Q4B  111 111  114 QN
RBD  111 111B     300
Q5B  9   111B 116 QN
Q6B  112 111B 117 QN 2X
Q7B  7   9    112 QN 2X
Q8B  115 118  113 QP 21X
RBB  112 118      150
RSCB 6   113      2.4
IBB  110 4        370U
ROB  110 4        80K 
DIB  4   110      DCC 3X
*
RIP  3   33       .01
RIM  2   22       15
RIB  7   11       120K
R4A  14  15       400
R5A  16  15       400
R6A  17  7        200
RBSA 7   15       6
R4B  114 115      400
R5B  116 115      400
R6B  117 4        200
RBSB 4   115      6
R9A  7   9        1200K
R9B  9   4        1200K
C9   9   4        3PF
D1   9   6        DCC
D2   6   9        DCC
D3   9   7        DCC 2X
D4   4   9        DCC 2X
CMA  7   11       4PF
CMB  111 4        4PF
IB   7   4        600UA
*
.MODEL DCC D CJO=3PF VJ=0.57 M=0.36
.MODEL QN NPN BF=150 TF=400P
.MODEL QP PNP BF=150 TF=400P
*
.ENDS LT1497
