.SUBCKT LT1499     3 2 7 4 6
X_LT1499 3 2 7 4 6 LT1498
** nested subcircuit: LT1498
.SUBCKT LT1498     3 2 7 4 6
*
Q4 17 11 18 [4] P1 1.006
Q3 16 10 15 [4] P1 1
Q5 33 32 14 [4] P1 1
QIC2 10 10 11 [4] P1 1
QIC1 11 11 10 [4] P1 1
Q4C 16 11 11 [4] P1 1.5
Q3C 17 10 10 [4] P1 1.5
Q1 12 11 20 [4] N1 1.006
Q2 13 10 21 [4] N1 1
Q2C 12 10 10 [4] N1 1.5
Q1C 13 11 11 [4] N1 1.5
*
RINP 10 3 200
RINN 11 2 200
R1 12 7 2K
RCMP 14 7 12MEG
R4 4 17 2K
R2 13 7 2K
ROUT1 27 6 31.2
ROUT2 27 0 50K
RCMN 4 19 12MEG
RPS1 4 22 1600MEG
RPS2 22 7 1600MEG
RI 23 24 4K
RC1 22 26 400
RO1 0 22 9MEG
RC3 29 22 2K
RC2 25 24 100
R3 4 16 2K
REQ4 18 14 450
REQ3 14 15 450
REQ1 20 19 450
REQ2 19 21 450
*
C1 12 13 1PF
C2 16 17 1PF
CCMP 14 7 1.6PF
CCMN 4 19 1.6PF
CC1 26 6 10P
CPS2 22 7 0.1PF
CC2 25 6 20P
CC3 29 0 50P
CINP 10 0 5P
CINN 11 0 5P
CPS1 4 22 0.1PF
*
VESAT 30 4 0.814
VCSAT 7 31 0.814
VSENSE 33 4 0
FSENSE 19 4 VSENSE 1
VLS 7 32 1.4
GN1 7 22 13 12 290U
GP1 22 4 17 16 340U
GOUT 0 27 0 24 22E-3
I1 7 14 75U
IOS 3 2 5NA
IQ 7 4 1.9MA
E1 23 0 22 0 6
EOUT 28 0 6 0 1
*
DI2 11 7 DM1
DI1 10 7 DM1
DC1 22 0 DMX
DO1 6 31 DM1
DO2 30 6 DM1
DL1 28 27 DMX
DL2 27 28 DMX
DC2 0 22 DMX
DSUB 4 7 DM2
*
.MODEL N1 NPN IS=400E-18 BF=150 RB=340 TF=400PS
 .MODEL P1 PNP IS=400E-18 BF=150 RB=400 TF=410PS
.MODEL DM1 D IS=8E-16
.MODEL DMX D IS=3.4E-24
.MODEL DM2 D IS=8E-16 BV=39
*
.ENDS LT1498
** end nested subcircuit: LT1498
.ENDS LT1499
